US06265575B1
Part C. 6-Benzyloxy-2-(dimethylamino)benzo[b]thiophen-3-yl 3,4-Dimethoxyphenyl Ketone
To a solution of 3,4-dimethoxybenzoyl chloride (1.250 g, 6.231 mmol) in 18 miL of chlorobenzene was added 6-benzyloxy-2-(dimethylamino)benzo[b]thiophene (Part B) (1.059 g, 3.738 mmol). The dark blue reaction mixture was then heated to 110° C. and stirred for 17 h by which time the solution turned to brown. The brown solution was then quenched at 0° C. with 30 mL of saturated aqueous NaHCO3 solution and extracted with EtOAc (2×200 mL). The combined organic layers were washed with 200 mL with brine, dried over MgSO4, concentrated under reduced pressure, and purified by flash chromatography (silica gel, 50:50 EtOAc-hexanes) to afford 1.265 g (2.826 mmol, 76%) of a yellow foam.

reactant | 3,4-dimethoxybenzoyl chloride | 6.231 mmol, 1.250 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | 6-benzyloxy-2-(dimethylamino)benzo[b]thiophene | 3.738 mmol, 1.059 g | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2)N(C)C)C1 | C17H17NOS
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 6-Benzyloxy-2-(dimethylamino)benzo[b]thiophen-3-yl 3,4-Dimethoxyphenyl Ketone | 2.826 mmol, 1.265 g, 76% | COC=1C=C(C=CC1OC)C(=O)C=1C2=C(SC1N(C)C)C=C(C=C2)OCC2=CC=CC=C2 | C26H25NO4S
